US07166621B2
Preparation of 2-(5-bromo-3-pyridyloxy)-N-(2-methylhex-3-yn-2-yl)butyramide (Compound No. 14 of Table 1)
This compound was prepared using a similar procedure to that described in Stage 3 of Example 1 except that 5-amino-5-methylhex-3-yne hydrochloride was used in place of 4-amino-4-methylpent-2-yne hydrochloride and 2-(5-bromo-3-pyridyloxy)butyric acid was used in place of 2-(5-chloro-3-pyridyloxy)butyric acid. The compound was characterised as follows: colourless solid, m.p. 90–92° C.; 1H NMR (CDCl3) δ: 1.02–1.06 (3H, t); 1.10–1.14 (3H, t); 1.62 (6H, s); 1.96–2.02 (2H, m); 2.16–2.22 (2H, m); 4.424.46 (1H, m); 6.30 (1H, br s); 7.40 (1H, m); 8.30 (1H, d); 8.36 (1H, d).

reactant | 5-amino-5-methylhex-3-yne hydrochloride | Cl.NC(C#CCC)(C)C
reactant | 2-(5-bromo-3-pyridyloxy)butyric acid | BrC=1C=C(C=NC1)OC(C(=O)O)CC | C9H10BrNO3
product | 2-(5-bromo-3-pyridyloxy)-N-(2-methylhex-3-yn-2-yl)butyramide | BrC=1C=C(C=NC1)OC(C(=O)NC(C)(C#CCC)C)CC | C16H21BrN2O2
